US08008301B2
(3,5-Difluoro-4′-methanesulfinyl-biphenyl-4-yl)-((S)-2-pyrrolidin-1-yl methyl-pyrrolidin-1-yl)-methan one
The title compound is prepared in a manner substantially analogous to Procedure WW starting from 4-(methylsulfinyl)phenyl boronic acid and (4-bromo-2,6-difluoro-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone to give 2 mg (2%). MS (ES+) 433 m/z

reactant | 4-(methylsulfinyl)phenyl boronic acid | CS(=O)C1=CC=C(C=C1)B(O)O | C7H9BO3S
reactant | (4-bromo-2,6-difluoro-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C(=C1)F)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H19BrF2N2O
product | (3,5-Difluoro-4′-methanesulfinyl-biphenyl-4-yl)-((S)-2-pyrrolidin-1-yl methyl-pyrrolidin-1-yl)-methan | FC=1C=C(C=C(C1CN1[C@@](CCC1)(N1CCCC1)C)F)C1=CC=C(C=C1)S(=O)C | C23H28F2N2OS
